### PR TITLE
iff lemmas

### PR DESCRIPTION
**Pull request by affeldt-aist**
I keep on feeling a need for these lemmas so I propose them to your scrutiny

### CODE REVIEW

File: theories/boolp.v [hunk 1]
```diff
@@ -366,6 +366,12 @@ Lemma notLR P Q : (P = ~ Q) -> (~ P) = Q. Proof. exact: canLR notK. Qed.
 
 Lemma notRL P Q : (~ P) = Q -> P = ~ Q. Proof. exact: canRL notK. Qed.
 
+Lemma iff_notP (P Q : Prop) : (P <-> ~ Q) <-> (~ P <-> Q).
+Proof. by split=> [/propext ->|/propext <-]; rewrite notK. Qed.
+
+Lemma iff_not (P Q : Prop) : (P <-> Q) <-> (~ P <-> ~ Q).
+Proof. by split=> [PQ|/iff_notP]; [apply/iff_notP|]; rewrite notK. Qed.
```
Comment (CohenCyril) [inline theories/boolp.v:373]:
```suggestion
Lemma iff_notr (P Q : Prop) : (P <-> ~ Q) <-> (~ P <-> Q).
Proof. by split=> [/propext ->|/propext <-]; rewrite notK. Qed.

Lemma iff_not2 (P Q : Prop) : (~ P <-> ~ Q) <-> (P <-> Q).
Proof. by split=> [iff_notP|PQ]; [|apply/iff_notP]; rewrite notK. Qed.
```
